US03953402
3,5-di tert.butyl-4-hydroxyphenyl acrylate was prepared by stirring a mixture of 22 grams of 2,6-di tert.butyl hydroquinone, 25.2 grams of trifluoroacetic acid anhydride, and 9.4 grams of acrylic acid for 4 hours at room temperature. The product was precipitated by adding 100 milliliters of water to the reaction mixture and was then filtered off and dried. After recrystallizing twice from hexane, there was obtained 13.3 grams of product of melting point 100° C. to 102° C.

reactant | 2,6-di tert.butyl hydroquinone | 22 grams | C(C)(C)(C)C1=C(O)C(=CC(=C1)O)C(C)(C)C | C14H22O2
reactant | trifluoroacetic acid anhydride | 25.2 grams | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | acrylic acid | 9.4 grams | C(C=C)(=O)O | C3H4O2
product | 3,5-di tert.butyl-4-hydroxyphenyl acrylate | C(C=C)(=O)OC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C17H24O3
